US05885990
Preparation of 6-amidino-1-(2-carbamoylethyl)-2-naphthyl 4-[(4,5-dihydro-1H-imidazol-2-yl)amino]-benzoate.dihydrochloride:
45 Milliliters of 20% hydrous pyridine was added to 2.71 g of 4-[(4,5-dihydro-1H-imidazol-2-yl)amino]benzoic acid.hydrochloride, 3.0 g of 6-amidino-1-(2-carbamoylethyl)-2-naphthol.hydrochloride, 2.52 g of DCC and 124.6 mg of DMAP, followed by stirring for 2 hours under cooling with ice and 6 days under cooling with water. The precipitate was filtered and the filtrate was concentrated under reduced pressure. To the residue was added 15 ml of DMF, and a small amount of insoluble matter was filtered off. The filtrate was added dropwise to 400 ml of acetone, followed by stirring for 1 hour under cooling with ice and 24 hours under cooling with water. The supernatant was decanted, and to the residue was added 15 ml of methanol, followed by stirring for 1 hour under cooling with ice. The precipitate was collected by filtration to obtain a crude product. Then, the product was subjected to silica gel column chromatography using a mixed liquid of methyl ethyl ketone-water-acetic acid (80:15:5) as an eluent solvent, and the desired fractions were collected and the solvent was distilled off under reduced pressure. The residue was dissolved in 5 ml of DMF and 200 μl of concentrated hydrochloric acid, and the solution was added dropwise to 200 ml of acetone. After stirring for 1 hour under cooling with ice and then 24 hours under cooling with water, the precipitate was collected by filtration to obtain 495.4 mg of the desired product.

reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | 4-[(4,5-dihydro-1H-imidazol-2-yl)amino]benzoic acid.hydrochloride | 2.71 g | Cl.N1C(=NCC1)NC1=CC=C(C(=O)O)C=C1
reactant | 6-amidino-1-(2-carbamoylethyl)-2-naphthol.hydrochloride | 3.0 g | Cl.C(N)(=N)C=1C=C2C=CC(=C(C2=CC1)CCC(N)=O)O
reactant | DCC | 2.52 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
catalyst | DMAP | 124.6 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | methyl ethyl ketone water acetic acid | C(C)C(=O)C.O.C(C)(=O)O
solvent | water | O | H2O
product | 6-amidino-1-(2-carbamoylethyl)-2-naphthyl 4-[(4,5-dihydro-1H-imidazol-2-yl)amino]-benzoate.dihydrochloride | 495.4 mg | Cl.Cl.N1C(=NCC1)NC1=CC=C(C(=O)OC2=C(C3=CC=C(C=C3C=C2)C(N)=N)CCC(N)=O)C=C1 | InChI=1S/C24H24N6O3.2ClH/c25-21(31)10-8-19-18-7-3-16(22(26)27)13-15(18)4-9-20(19)33-23(32)14-1-5-17(6-2-14)30-24-28-11-12-29-24;;/h1-7,9,13H,8,10-12H2,(H2,25,31)(H3,26,27)(H2,28,29,30);2*1H
